US09023864B2
(7-{5-[(4-Bromo-phenyl)-hydroxy-methyl]-[1,2,3]triazol-1-yl}-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)-acetic acid
The title compound was prepared using procedures described in EXAMPLE 3 from propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate and 1-(4-bromophenyl)prop-2-yn-1-ol. MS (+ESI) m/z: 483.0.

reactant | propyl (7-azido-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)acetate | N(=[N+]=[N-])C1CCC=2N(C3=CC=CC=C3C2CC(=O)OCCC)C1 | C17H20N4O2
reactant | 1-(4-bromophenyl)prop-2-yn-1-ol | BrC1=CC=C(C=C1)C(C#C)O | C9H7BrO
product | (7-{5-[(4-Bromo-phenyl)-hydroxy-methyl]-[1,2,3]triazol-1-yl}-6,7,8,9-tetrahydropyrido[1,2-α]indol-10-yl)-acetic acid | BrC1=CC=C(C=C1)C(C1=CN=NN1C1CCC=2N(C3=CC=CC=C3C2CC(=O)O)C1)O | C23H21BrN4O3
